US07491735B2
COMPOUND 83: N-(3-{4-[Benzyl-(4-sulfamoyl-phenyl)-amino]-piperidin-1-yl}-butyl)-3,5-dichloro-isonicotinamide
Using general procedure F, 3,5-dichloroisonicotinic acid (87 mg, 0.45 mmol) and the above amine (58 mg, 0.14 mmol) afforded the desired product and N-{3-[4-(benzyl-{4-[(3,5-dichloro-pyridine-4-carbonyl)-sulfamoyl]-phenyl}-amino)-piperidin-1-yl]-butyl}-3,5-dichloro-isonicotinamide.

reactant | 3,5-dichloroisonicotinic acid | 0.45 mmol, 87 mg | ClC1=C(C(=O)O)C(=CN=C1)Cl | C6H3Cl2NO2
reactant | N-{3-[4-(benzyl-{4-[(3,5-dichloro-pyridine-4-carbonyl)-sulfamoyl]-phenyl}-amino)-piperidin-1-yl]-butyl}-3,5-dichloro-isonicotinamide | C(C1=CC=CC=C1)N(C1CCN(CC1)C(CCNC(C1=C(C=NC=C1Cl)Cl)=O)C)C1=CC=C(C=C1)S(NC(=O)C1=C(C=NC=C1Cl)Cl)(=O)=O | C34H34Cl4N6O4S
product | N-(3-{4-[Benzyl-(4-sulfamoyl-phenyl)-amino]-piperidin-1-yl}-butyl)-3,5-dichloro-isonicotinamide | 0.14 mmol, 58 mg | C(C1=CC=CC=C1)N(C1CCN(CC1)C(CCNC(C1=C(C=NC=C1Cl)Cl)=O)C)C1=CC=C(C=C1)S(N)(=O)=O | C28H33Cl2N5O3S
